US04381303
N-(2-Chloro-3-pyridinyl)-4-(methylamino)-N,1,3-trimethyl-1H-pyrazole-5-carboxamide
A mixture of 40.8 gm (0.091 mol) of N-(2-chloro-3-pyridinyl)-4-[[(4-methylphenyl)-sulfonyl]methylamino]-N,1,3-trimethyl-1H-pyrazole-5-carboxamide (prepared from N-(2-chloro-3-pyridinyl)-4-[[(4-methylphenyl)-sulfonyl]amino]-N,1,3-trimethyl-1H-pyrazole-5-carboxamide by reaction with sodium hydride in anhydrous N,N-dimethylformamide and subsequent reaction with methyl iodide) and 0.6 kg of polyphosphoric acid (content of phosphorpentoxide: 85%) was heated with stirring for 6 hours up to 60° C. The warm reaction mixture was stirred into cracked ice and subsequently mixed by means of external cooling with ice water with 40% aqueous sodium hydroxide solution until the precipitation was finished. After standing for 2 hours at +5° C., the strongly acidic reaction mixture was filtered off by suction filtration. The filtration residue was carefully washed with water and subsequently dried in the air. Yield: 20.9 gm (78% of theory).

reactant | N-(2-chloro-3-pyridinyl)-4-[[(4-methylphenyl)-sulfonyl]methylamino]-N,1,3-trimethyl-1H-pyrazole-5-carboxamide | 0.091 mol, 40.8 gm | ClC1=NC=CC=C1N(C(=O)C1=C(C(=NN1C)C)NCS(=O)(=O)C1=CC=C(C=C1)C)C | C20H22ClN5O3S
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(2-Chloro-3-pyridinyl)-4-(methylamino)-N,1,3-trimethyl-1H-pyrazole-5-carboxamide | ClC1=NC=CC=C1N(C(=O)C1=C(C(=NN1C)C)NC)C | C13H16ClN5O
